US06344179B1
(E)-1,4-Ditosyloxy-2-butene:
To a solution of (E)-2-buten-1,4-diol (326 mg, 3.7 mmol) and p-toluenesulfonyl chloride (1.76 g, 9.25 mmol) in 30 mL of THF was added portionwise sodium tert-butoxide (1.07 g, 11.1 mmol)) under stirring at 0° C. The mixture was then stirred overnight at rt. Water (100 mL) was added and the product was extracted with CH2CL2 (3×25 mL). The extract was dried with MgSO4, filtered, and evaporated. Purification by flash column chromatography with hexane:ether:CH2CH2/3:1:1 gave the product as a crystal (1.21 g, 182%), m.p. 90-91° C. 1H NMR (300 MHz, CDCl3) δ 7.77 (d, J=8.7 Hz, 4H), 7.35 (d, J−8.4 Hz, 4H), 5.75-5.73 (m, 2H), 4.49-4.47 (m, 4H), 2.46 (s, 6H; Anal. Calcd for C18H20O6S2: C, 54.53; H, 5,08,found C, 54.61; H, 5.07.

reactant | (E)-2-buten-1,4-diol | 3.7 mmol, 326 mg | C(\C=C\CO)O | C4H8O2
reactant | p-toluenesulfonyl chloride | 9.25 mmol, 1.76 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium tert-butoxide | 11.1 mmol, 1.07 g | CC(C)([O-])C.[Na+]
reactant | Water | 100 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (E)-1,4-Ditosyloxy-2-butene | 1.21 g, 182% | S(=O)(=O)(C1=CC=C(C)C=C1)OC\C=C\COS(=O)(=O)C1=CC=C(C)C=C1 | C18H20O6S2
